US06897231B2
B. N-[3-(5-(1H-1,2,4-triazol-3-yl)(1H-indazol-3-yl))phenyl]Isoxazol-5-ylcarboxamide
Isoxazol-5-yl-N-(3-{1-perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature overnight. After neutralization with aqueous NaHCO3, the crude product was extracted in ethyl acetate and purified by preparative HPLC (0.005 g, 5% yield over 2 steps): 1H NMR (CD3OD) 8.65 (t, 1H), 8.73 (s, 1H), 8.45 (s, 1H), 8.38 (br s, <1H), 8.10 (d, 1H), 7.92 (d, 1H), 7.82 (d, 1H), 7.58 (t, 1H), 7.32 (d, 1H); ES-MS (m/z) 372 [M+H]+.

reactant | Isoxazol-5-yl-N-(3-{1-perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide | O1N=CC=C1C(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C43H35N7O3
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(5-(1H-1,2,4-triazol-3-yl)(1H-indazol-3-yl))phenyl]Isoxazol-5-ylcarboxamide | 5% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(=O)C1=CC=NO1 | C19H13N7O2
